US04882085
Hydroquinone mono(2'-octyloxypropyl) ether
17.0 g of hydroquinone, 11.4 g of 85% KOH, 7.5 ml of water and 200 ml of ethanol were added into a four-necked flask, and after the reaction for 5 hours, the mixture was elevated in temperature to 50° C. and 33 g of (2'-octyloxypropyl) p-toluenesulfonate was added dropwise thereto. After the reaction for 5 hours, the mixture was heated at reflux for 11 hours and thereafter ethanol was evaporated. The residue was added into 600 ml of water and acidified with hydrochloric acid. The mixture was extracted with 500 ml of hexane and the extract was dried over anhydrous Na2SO4, followed by recrystallization. Yield: 4.2 g (16%). Optical rotation [α]D26.2° =-11.3°.

reactant | hydroquinone | 17.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | KOH | 11.4 g | [OH-].[K+]
reactant | water | 7.5 ml | O | H2O
reactant | (2'-octyloxypropyl) p-toluenesulfonate | 33 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)OCCCCCCCC)C | C18H30O4S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Hydroquinone mono(2'-octyloxypropyl) ether | C(CCCCCCC)OC(COC1=CC=C(O)C=C1)C | C17H28O3
